US08022062B2
Add palladium(II) acetate (27 mg, 0.12 mmol), BINAP (146 mg, 0.24 mmol), cesium carbonate (270 mg, 0.8 mmol) and (±)-1-(3-fluorophenyl)-ethylamine (230 mg, 1.6 mmol) to a solution of 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (250 mg, 0.6 mmol) in toluene (9 mL). Degas the slurry and fill with nitrogen. Heat the mixture to 95° C. for 16 h. Add additional palladium(II) acetate (0.1 equiv.) and BINAP (0.2 equiv.) and continue heating the reaction for an additional 24 h. Cool the mixture, dilute with EtOAc (50 mL) then filter through Celite®. Concentrate the filtrate and purify by chromatography on silica gel eluting with hexane/EtOAc (9:1 to 1:1) followed by SCX chromatography to obtain (±)-7-chloro-6-[1-(3-fluorophenyl)-ethylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (138 mg, 56%). GC-MS m/z: 414 (M+).

reactant | BINAP | 0.24 mmol, 146 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.8 mmol, 270 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (±)-1-(3-fluorophenyl)-ethylamine | 1.6 mmol, 230 mg | FC=1C=C(C=CC1)C(C)N | C8H10FN
reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.6 mmol, 250 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | BINAP | 0.2 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 0.12 mmol, 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 0.1 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (±)-7-chloro-6-[1-(3-fluorophenyl)-ethylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 138 mg, 56% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NC(C)C1=CC(=CC=C1)F | C20H19ClF4N2O
